US05508423
2-(1,3-Difluorophenyl)propane II
To a rapidly stirred mixture of 1,3-Difluorobenzene (31.5 ml, 320 mmol) and 80% H2SO4 (150 ml), Isopropanol (25 ml, 320 mmol) was added at room temperature. The mixture was heated to 65° C. and stirred for four hours. The resulting light brown mixture was cooled to room temperature. The organic layer was separated from the H2SO4 and washed twice with 50 ml saturated NaCl (aqueous). The organic layer was subjected to fractional distillation to give 55.2% (27.6 g, 177 mmol) of the title compound and 27.1% (9.9 g, 86.8 mmol) recovered 1,3- Difluorobenzene.

reactant | 1,3-Difluorobenzene | 320 mmol, 31.5 ml | FC1=CC(=CC=C1)F | C6H4F2
reactant | Isopropanol | 320 mmol, 25 ml | C(C)(C)O | C3H8O
solvent | H2SO4 | 150 ml | OS(=O)(=O)O | H2O4S
product | 2-(1,3-Difluorophenyl)propane | 177 mmol, 27.6 g, 55.2% | FC1(CC(=CC=C1)F)C(C)C | C9H12F2
